US04415572
A solution of 7.02 g of p-aminoaniline in 150 ml of toluene was added 9.12 ml of triethylamine and stirred at 80° C. while adding dropwise a solution of 11 g of β-bromopropionyl chloride in 30 ml of toluene. After the mixture was reacted for 30 minutes colored resinous substance which formed was removed, and the reaction mixture was washed with water and dried. Removal of the solvent by distillation gave 10.1 g of N-(β-bromopropionyl)-p-aminoaniline as oily product. Production of the compound was confirmed by IR and NMR spectra.

reactant | p-aminoaniline | 7.02 g | NC1=CC=C(N)C=C1 | C6H8N2
reactant | triethylamine | 9.12 ml | C(C)N(CC)CC | C6H15N
reactant | β-bromopropionyl chloride | 11 g | BrCCC(=O)Cl | C3H4BrClO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-(β-bromopropionyl)-p-aminoaniline | 10.1 g | BrCCC(=O)NC1=CC=C(C=C1)N | C9H11BrN2O
